US07557247B2
b. Synthesis of N-{2-[4-((R)-2-hydroxy-2-phenylethylamino)phenyl]ethyl}-(R)-2-hydroxy-2-(3-formamido-4-benzyloxyphenyl)ethylamine Monohydrochloride
Seed crystals were obtained as follows. N-{2-[4-((R)-2-hydroxy-2-phenylethylamino)phenyl]ethyl}-(R)-2-hydroxy-2-(3-formamido-4-benzyloxyphenyl)ethylamine (96.1 mg, 0.18 mmol) was dissolved in 2-propanol (2.2 mL) with warming. A solution of hydrochloric acid in dioxane (4 M, 45 μL, 0.18 mmol) was added. At the end of the addition the majority of material was present as a gum which was stirred at room temperature overnight. The solids were collected by filtration, washed with 2-propanol (3×1 mL) and dried by suction on the filter to give the title compound as a colorless solid (69.5 mg, 69%). 1H NMR in accord with structure (400 MHz, DMSO-d6).

reactant | N-{2-[4-((R)-2-hydroxy-2-phenylethylamino)phenyl]ethyl}-(R)-2-hydroxy-2-(3-formamido-4-benzyloxyphenyl)ethylamine | 0.18 mmol, 96.1 mg | O[C@@H](CNC1=CC=C(C=C1)CCNC[C@@H](C1=CC(=C(C=C1)OCC1=CC=CC=C1)NC=O)O)C1=CC=CC=C1 | C32H35N3O4
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 0.18 mmol, 4 M, 45 μL | O1CCOCC1 | C4H8O2
solvent | 2-propanol | 2.2 mL | CC(C)O | C3H8O
product | N-{2-[4-((R)-2-hydroxy-2-phenylethylamino)phenyl]ethyl}-(R)-2-hydroxy-2-(3-formamido-4-benzyloxyphenyl)ethylamine Monohydrochloride | 69.5 mg, 69% | Cl.O[C@@H](CNC1=CC=C(C=C1)CCNC[C@@H](C1=CC(=C(C=C1)OCC1=CC=CC=C1)NC=O)O)C1=CC=CC=C1 | InChI=1S/C32H35N3O4.ClH/c36-23-35-29-19-27(13-16-32(29)39-22-25-7-3-1-4-8-25)30(37)20-33-18-17-24-11-14-28(15-12-24)34-21-31(38)26-9-5-2-6-10-26;/h1-16,19,23,30-31,33-34,37-38H,17-18,20-22H2,(H,35,36);1H/t30-,31-;/m0./s1
